US08278335B2
Step 1. (6-Bromopyridin-2-yl)acetonitrile
To a solution of MeCN (14.29 mL, 274 mmol) in THF (300 mL) at −78° C. was added n-butyllithium (2.5 Min hexanes, 100 mL, 251 mmol). After stirring for 30 minutes at −78° C., 2,6-dibromopyridine (18.0 g, 76 mmol) in THF (100 mL) was added. The reaction was stirred at −78° C. for 45 minutes, warmed to room temperature over 45 minutes, and quenched with water. The mixture was extracted with ethyl acetate (2×). The combined organic layers were washed with brine, dried (MgSO4), and concentrated in vacuo. Flash chromatography (silica, 0-40% ethyl acetate/hexanes) afforded the title compound as a yellow solid. LRMS (APCI) calcd for C7H6BrN2 [M+H]+ 197, found 197.

reactant | MeCN | 274 mmol, 14.29 mL | CC#N | C2H3N
reactant | n-butyllithium | 251 mmol, 100 mL | C(CCC)[Li]
reactant | 2,6-dibromopyridine | 76 mmol, 18.0 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (6-Bromopyridin-2-yl)acetonitrile | BrC1=CC=CC(=N1)CC#N | C7H5BrN2
